US09388173B2
Step 4: 1-methyl-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine
To a stirred mixture of tert-butyl 1-methyl-4,5-dihydro-1H-pyrazolo[3,4-c]pyridine-6(7H)-carboxylate (744 mg, 3.14 mmol) in EA (2 mL) was added HCl/EA (3 N, 4 mL). The mixture was stirred at 25° C. for 16 hours. The reaction mixture was then concentrated and the residue purified by Prep-HPLC and SFC to afford the target compound as colorless oil which was used without further purification in the next step. (120 mg; yield 28%). LCMS (m/z): 138.10 (M+1).

reactant | tert-butyl 1-methyl-4,5-dihydro-1H-pyrazolo[3,4-c]pyridine-6(7H)-carboxylate | 3.14 mmol, 744 mg | CN1N=CC2=C1CN(CC2)C(=O)OC(C)(C)C | C12H19N3O2
reactant | HCl EA | 3 N, 4 mL | Cl.CC(OCC)=O
solvent | EA | 2 mL | CC(OCC)=O | C4H8O2
product | 1-methyl-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine | yield 28% | CN1N=CC2=C1CNCC2 | C7H11N3
